US09145409B2
Step 1: preparation of 4-((S)-2-(((S)-3-(3-carboxybenzyl)thiazolidine-2-carbonyl)oxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (E5a)
To a stirred solution of 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide hydrochloride (I5, 570 mg, 1.0 mmol) in DCM (5 mL) was added 3-formylbenzoic acid (180 mg, 1.2 mmol) followed by glacial AcOH (0.17 mL, 3.3 mmol). The reaction was stirred at room temperature for 18 h. Sodium triacetoxyborohydride (690 mg, 3.12 mmol) was added and the reaction was stirred at room temperature for 1.5 h. Additional 3-formylbenzoic acid (180 mg, 1.2 mmol) was added and the reaction mixture was stirred at room temperature for 2 days. DCM (25 mL) and 1 N HCl (15 mL) were added to quench the reaction and the mixture was passed through a hydrophobic fit and the solvent was removed in vacuo to give the title compound.

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide hydrochloride | 1.0 mmol, 570 mg | Cl.ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-]
reactant | 3-formylbenzoic acid | 1.2 mmol, 180 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | AcOH | 3.3 mmol, 0.17 mL | CC(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 3.12 mmol, 690 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-formylbenzoic acid | 1.2 mmol, 180 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | HCl | 1 N, 15 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-((S)-2-(((S)-3-(3-carboxybenzyl)thiazolidine-2-carbonyl)oxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | C(=O)(O)C=1C=C(CN2[C@@H](SCC2)C(=O)O[C@@H](CC2=C(C=[N+](C=C2Cl)[O-])Cl)C2=CC(=C(C=C2)OC(F)F)OCC2CC2)C=CC1 | C30H28Cl2F2N2O7S
